US08026257B2
(±)-tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
(±)-1-(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate (1.1 g, 2.33 mmol) and tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate (0.79 g, 2.57 mmol) were combined in a dichloromethane/cyclohexane mixture (1:1, 10 mL) and cooled to 0° C. The reaction was treated with tetrafluoroboric acid-diethyl ether complex (64 μL, 0.47 mmol), stirred at 0° C. for 1 h, quenched by addition of saturated sodium bicarbonate, and diluted with diethyl ether. The layers were separated. The ethereal was washed with water (2×), brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (20% ethyl acetate/hexanes) gave 0.81 g (56%) as a clear film. 1H-NMR (CDCl3, 500 MHz) δ 8.00 (s, 1H), 7.49 (d, J=1.8 Hz, 1H), 7.30-7.33 (m, 2H), 7.01-7.05 (m, 2H), 6.77 (m, 1H), 5.62-5.68 (s, 2H), 4.93 (q, J=6.4 Hz, 1H), 3.72 (m, 2H), 3.58-3.61 (m, 2H), 3.33-3.39 (m, 2H), 3.03-3.08 (m, 2H), 2.08-2.22 (m, 2H), 1.87-1.97 (m, 2H), 1.44 (s, 9H), 1.43 (d, J=6.4 Hz, 3H), 0.91-0.92 (m, 2H), 0.05 (s, 9H). Mass spec.: 618.86 (MH)+.

reactant | (±)-1-(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate | 2.33 mmol, 1.1 g | ClC(C(OC(C)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)Cl)=N)(Cl)Cl | C17H23Cl4N3O2Si
reactant | tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate | 2.57 mmol, 0.79 g | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)CO | C17H24FNO3
solvent | dichloromethane cyclohexane | 10 mL | ClCCl.C1CCCCC1
product | (±)-tert-Butyl 4-((1-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC1=CC2=CN(N=C2C(=C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C32H45ClFN3O4Si
